US07091198B1
7-Benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane
10.00 g (0.25 mol) of lithium aluminum hydride are introduced into 300 ml of absolute tetrahydrofuran and heated to reflux, and 18.00 g (50 mmol) of 7-benzyl-3-phenylsulfonyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane, dissolved in 150 ml of absolute tetrahydrofuran, are added dropwise. The mixture is boiled under reflux for 48 hours, 10 ml portions of water, 15% strength potassium hydroxide solution and again water are added dropwise, and the organic salts are filtered off with suction and extracted by boiling twice with tetrahydrofuran. The tetrahydrofuran solutions are concentrated, and the residue is distilled under high vacuum. 5.30 g (43.5% of theory) of the product are obtained

reactant | lithium aluminum hydride | 0.25 mol, 10.00 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7-benzyl-3-phenylsulfonyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane | 50 mmol, 18.00 g | C(C1=CC=CC=C1)N1CC2CN(CC(C1)O2)S(=O)(=O)C2=CC=CC=C2 | C19H22N2O3S
reactant | water | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 7-Benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane | C(C1=CC=CC=C1)N1CC2CNCC(C1)O2 | C13H18N2O
